US07569579B2
Benzyl ethyl{1-[((1R,2S)-2-{[methyl(phenylsulfonyl)amino]methyl}-2-phenylcyclopropyl)methyl]piperidin-4-yl}carbamate
N-{[(1S,2R)-2-formyl-1-phenylcyclopropyl]methyl}-N-methylbenzenesulfonamide and benzyl ethyl(piperidin-4-yl)carbamate (incorporating by reference as needed Bioorg. and Med. Chem. Lett., 11 (2001), 2475) were reacted as per Preparation 10 to give the title compound. 1H NMR (300 MHz, DMSO-d8) δ 7.70-7.56 (m, 5H), 7.40-7.17 (m, 10H), 5.09 (s, 2H), 3.88 (d, J=13.3 Hz, 1H), 3.75 (m, 1H), 3.19 (q, J=6.6 Hz, 2H), 3.09-3.05 (m, 1H), 2.91-2.87 (m, 1H), 2.83 (d, J=13.3 Hz, 1H), 2.58-2.52 (m, 1H), 2.52 (s, 3H), 2.44-2.38 (m, 1H), 2.08-1.92 (m, 2H), 1.77-1.58 (m, 4H), 1.41-1.37 (m, 0.1H), 1.07 (t, J=6.6 Hz, 3H), 1.07-0.99 (m, 1H), 0.78 (m, 1H). ES-LCMS m/z 576.1 (M+H).

reactant | N-{[(1S,2R)-2-formyl-1-phenylcyclopropyl]methyl}-N-methylbenzenesulfonamide | C(=O)[C@H]1[C@@](C1)(C1=CC=CC=C1)CN(S(=O)(=O)C1=CC=CC=C1)C | C18H19NO3S
reactant | benzyl ethyl(piperidin-4-yl)carbamate | C(C)N(C(OCC1=CC=CC=C1)=O)C1CCNCC1 | C15H22N2O2
product | Benzyl ethyl{1-[((1R,2S)-2-{[methyl(phenylsulfonyl)amino]methyl}-2-phenylcyclopropyl)methyl]piperidin-4-yl}carbamate | C(C)N(C(OCC1=CC=CC=C1)=O)C1CCN(CC1)C[C@H]1[C@@](C1)(C1=CC=CC=C1)CN(S(=O)(=O)C1=CC=CC=C1)C | C33H41N3O4S
